US06177443B1
[4-(3,4-Dimethoxyphenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-6-yl]-[4-(2-dimethylaminoethoxy)-phenyl]-methanone, (compound No. 40)
Similarly as described in example 22 using a solution of 4-(3,4-Dimethoxyphenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine in N,N-dimethylformamide (0.375 M, 0.4 ml, 0.15 mmol), a suspension of 4-(2-dimethylaminoethoxy)benzoic acid hydrochloride in N,N-dimethylformamide (0.375 M, 0.4 ml, 0.15 mmol), triethylamine (42 pi), and 0.25 ml of a suspension of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride in dichloromethane (1.73 9 in 8.3 ml) affords the title compound.

reactant | 4-(3,4-Dimethoxyphenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | COC=1C=C(C=CC1OC)C1C2=C(CNC1)SC=C2 | C15H17NO2S
reactant | N,N-dimethylformamide | 0.15 mmol, 0.375 M, 0.4 ml | CN(C=O)C | C3H7NO
reactant | 4-(2-dimethylaminoethoxy)benzoic acid hydrochloride | Cl.CN(CCOC1=CC=C(C(=O)O)C=C1)C
reactant | N,N-dimethylformamide | 0.15 mmol, 0.375 M, 0.4 ml | CN(C=O)C | C3H7NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8.3 ml | ClCCl | CH2Cl2
product | [4-(3,4-Dimethoxyphenyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-6-yl]-[4-(2-dimethylaminoethoxy)-phenyl]-methanone | COC=1C=C(C=CC1OC)C1C2=C(CN(C1)C(=O)C1=CC=C(C=C1)OCCN(C)C)SC=C2 | C26H30N2O4S
